US07723345B2
To a mixture of 3′-methyl-1-biphenyl-2-carbaldehyde (500 mg, 2.551 mmol) and trifluoromethyl trimethylsilane (435 mg, 3.061 mmol) in THF (3 ml) was added tetrabutyl ammonium fluoride (13 mg, 0.05 mmol) at 0° C. The temperature was allowed to warm to room temperature. The mixture was stirred for 5 hours at room temperature, then diluted with ethyl acetate, washed with water and brine and dried by MgSO4. The solvent was removed under reduced pressure to give 660 mg (97% crude yield) of 2,2,2-trifluoro-1-(3′-methyl-biphenyl-2-yl)-ethanol as crude product, which was used for next step without further purification.

reactant | trifluoromethyl trimethylsilane | 3.061 mmol, 435 mg | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutyl ammonium fluoride | 0.05 mmol, 13 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2,2-trifluoro-1-(3′-methyl-biphenyl-2-yl)-ethanol | 660 mg | FC(C(O)C1=C(C=CC=C1)C1=CC(=CC=C1)C)(F)F | C15H13F3O
